US05968985
To a solution of 3-methoxycarbonyl-5-iodobenzoic acid (1 g) in tetrahydrofuran (10 ml) was added at -40° C. to -30° C. triethylamine (0.55 ml) followed by slow addition of isobutyl chloroformate (0.51 ml) under nitrogen atmosphere. The reaction mixture was stirred below -20° C. for 45 minutes. Then, triethylamine hydrochloride was filtered off and washed with cold tetrahydrofuran, and the filtrate was added as quickly as possible to a suspension of sodium borohydride (0.37 g) in tetrahydrofuran-water (8:1, 8 ml) at 0° C. with vigorous stirring. The stirring was continued at ambient temperature for 4 hours, followed by acidification of the solution to pH 5. The tetrahydrofuran was removed under reduced pressure, and the product was extracted with ethyl acetate. The organic layer was washed with water and brine and dried over magnesium sulfate. Ethyl acetate was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (30:1). The fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-hydroxymethyl-5-iodobenzoate.

reactant | 3-methoxycarbonyl-5-iodobenzoic acid | 1 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)I | C9H7IO4
reactant | triethylamine | 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.51 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 3-hydroxymethyl-5-iodobenzoate | OCC=1C=C(C(=O)OC)C=C(C1)I | C9H9IO3
